US07259183B2
Preparation of 1,1-dimethylindan-5-carbaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S53) using 5-bromo-1,1-dimethylindan [synthesized in analogy to a procedure described in Org. Prep. Proc. Int. 10:123-131 (1978)] (270 mg, 1.20 mmol), nBuLi (833 μl, 1.6M solution in hexane, 1.33 mmol) and DMF (173 μl, 2.22 mmol). The isolated residue was purified by flash column chromatography (1:9 ether:pentane) to give 1,1-dimethylindan-5-carbaldehyde (195 mg, 93%) as a colorless oil. 1H NMR (CDCl3, 300 MHz): δ 9.96 (s, 1H), 7.71-7.69 (m, 2H), 7.28 (m, 1H), 2.95 (apt t, J=7.0 Hz, 2H), 1.98 (apt t, J=7.0 Hz, 2H), 1.95 (s, 6H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 5-bromo-1,1-dimethylindan | BrC=1C=C2CCC(C2=CC1)(C)C | C11H13Br
reactant | nBuLi | 1.33 mmol, 1.6M, 833 μl | [Li]CCCC
reactant | DMF | 2.22 mmol, 173 μl | CN(C)C=O | C3H7NO
product | 1,1-dimethylindan-5-carbaldehyde | 195 mg, 93% | CC1(CCC2=CC(=CC=C12)C=O)C | C12H14O
